US08084645B2
N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-formyl-benzamide (10.5 mg, 17.7 μmol) prepared in Process B was dissolved in ethanol (1.5 ml). Hydroxylamine hydrochloride (40 mg, 0.57 mmol) and saturated aqueous solution of sodium bicarbonate (0.3 ml) were added thereto, and the mixture was stirred at room temperature for two hours. Water (5 ml) was added to the reaction solution, which was extracted with ethyl acetate (6 ml×3). The organic layers were combined, washed with saturated brine (8 ml), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel-column chromatography (Presep (r) silica gel, 10 g, Wako Pure Chemical Industries, Ltd., n-hexane/ethyl acetate (4:1)) to give N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-(hydroxyiminomethyl)-benzamide (5.0 mg, 46%).

reactant | N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-formyl-benzamide | 17.7 μmol, 10.5 mg | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=O)F)F)NC1=C(C=C(C=C1)I)F)=O | C22H26F3IN2O4Si
reactant | Hydroxylamine hydrochloride | 0.57 mmol, 40 mg | Cl.NO
reactant | sodium bicarbonate | 0.3 ml | C([O-])(O)=O.[Na+]
reactant | Water | 5 ml | O | H2O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-(hydroxyiminomethyl)-benzamide | 5.0 mg, 46% | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=NO)F)F)NC1=C(C=C(C=C1)I)F)=O | C22H27F3IN3O4Si
